* Schematics Netlist *



V_VDD         $N_0001 0 5V
V_VA         $N_0002 0 0V
V_VB         $N_0003 0 0V
M_M6         $N_0001 $N_0002 $N_0004 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M4         $N_0001 $N_0003 $N_0004 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M1         $N_0004 $N_0002 $N_0005 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M5         $N_0005 $N_0003 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
